### PR TITLE
snarky: the endoInv laws — sound and complete against the recip multiple

### PR DESCRIPTION
**Pull request by martyall**
The law pair for the division gadget (#300), generic over `HasEndo` like its endoMul siblings, both directions from the PS defining equation `endoInv g a ~ scalarMul (recip (toFieldPure a endoScalar)) g`.

## Soundness — `endoInv_spec`

Under any satisfying valuation, for an on-curve input `g`: some `[s]` with `(s : F) = EndoScalar.toField crumbs λ` (and `scalar` reading as the crumbs' reconstruction) maps the result to the input, and — `s` being a unit mod the prime order, free since `g` is affine hence nonzero — the result is `[s⁻¹]·g`. The proof is the gadget's design made formal: the inline on-curve rows discharge `endoMul_spec`'s promise hypothesis at the witnessed point, with the new dictionary field `delta_ne` (smoothness) upgrading their equation to nonsingularity. The advice parameters are universally quantified: soundness never consults the witness.

## Completeness — `endoInv_complete_spec`

Instantiated in its own scalar field (`q := W.order`, `λ' := λ mod q`), the honest run succeeds whenever the input reads on-curve and the challenge is faithful and in range, and the result reads as `[eff⁻¹]·g` for `eff` the endo-decoded challenge. The walk is bind-by-bind mvcgen over the component complete specs — `endoMul_complete_spec` passed invocation-scoped — plus one quarantined scalar lemma proving the two facts the gadget owes: `eff` is a unit mod the order (its ℤ-shadow is a positive bounded GLV combo, priced by `combo_ne_zero`), and endoMul's scalar satisfies `s ≡ eff (mod q)`.

## The two-field bridge (the kimchi half)

Completeness needs `s` mod the group order, but the chain tower pinned `s` only through its F-image. The bridge, built bottom-up with no new hypotheses:

- **Decomposition exposed**: `gate_advance`'s `|c| ≤ 3` bounds (already proved, previously discarded) thread up through `endoMul_ab` to `endoMul`/`endoMul_off`, whose posts now read `∃ s A B, s = B + A·λ` with `|A|,|B| ≤ 3·4^m` and F-image pins at the canonical crumbs. Deployed entries keep their published shape.
- **ℤ-shadow**: `digitsOf` (the digit list `crumbsOf` casts), integer tables for `cPoly`/`dPoly`, and `decomposeAInt`/`decomposeBInt`/`toIntZ` with cast lemmas into any field with 2 and 3 invertible — one integer scalar, read once in the base field and once in the scalar field. Window bounds `[2^n + 1, 3·2^n − 1]` make the shadow positive and boxed.
- **Dictionary**: `HasEndo` gains `delta_ne`, `order_ne_three`, and `char_big` (integers under `2^127` embed injectively in `F` — what turns bounded F-pinned integers into exact values). All three discharged in both deployed dictionaries.
- **Toolkit**: `eq_inv_smul_of_smul_eq` (the recip reading of a scalar multiple at prime order) and `smul_eq_smul_of_zmod_eq` (scalars act through their residues) in the VarBaseMul kit; `combo_ne_zero` goes public.

## Proof-engineering notes

Two elaboration traps, recorded in the quarantine lemma's docstring: hypotheses mentioning `digitsOf` at a symbolic challenge whnf-unfold 64 levels deep (445k unfoldings) and stall mvcgen — so the digit shadow stays inside `endoInv_scalar_facts`, whose statement mentions only `crumbsOf`; and `set` traverses the wp-term goal, so the walk introduces names with goal-blind `obtain ⟨x, hx⟩ : ∃ x, x = e` instead.

Battery green: build, corpus 26/26, witness checker 25/25, style, snarky gate 122 roots / kimchi 106, deadcode 0, env linters, shake.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

## Addendum: SizedF

A follow-up commit ports `Snarky.Circuit.DSL.SizedF` (the base-DSL bit-width tag) and restates both gadgets over it: `endoMul` takes `SizedF (4 * rounds)`, `endoInv` takes `SizedF 128`, mirroring the PS signatures and pinning the size relations at the types. Newtype only — PS's bit combinators and the `CheckedType` range check arrive with their consumers. Note for #301: its bulletReduce transcriptions call these gadgets with bare `FVar` scalars; whichever PR merges second needs the two call sites wrapped in `⟨·⟩`.

### CODE REVIEW

File: formal/kimchi/Kimchi/Gate/Semantics/EndoScalar.lean [hunk 1]
```diff
@@ -202,6 +202,129 @@ def nReconstruct (crumbs : List F) : F := crumbs.foldl (fun n x => 4 * n + x) 0
 def toField (crumbs : List F) (lam : F) : F :=
   decomposeA crumbs * lam + decomposeB crumbs
 
+/-! ## The ℤ-shadow of the decomposition
+
+    `cPoly`/`dPoly` live in a field (their coefficients divide by 2 and 3), so the decompose
```
Comment (martyall) [inline formal/kimchi/Kimchi/Gate/Semantics/EndoScalar.lean:213]: Isn't there some class for which we can write these functions generically, like any `Ring` (for which there is a natural mapping of Z into any Ring, and any Ring is a field)? Why would we duplicate all this work like this ?

File: formal/kimchi/Kimchi/Gate/Semantics/EndoMul.lean [hunk 2]
```diff
@@ -1003,7 +1004,8 @@ private theorem endoMul_ab (W : WeierstrassCurve.Affine F) [Fact (Nat.Prime W.or
   have hrow : ∀ i, i < m → ∃ c1 c2 : ℤ,
       P (i + 1) = (4 : ℤ) • P i + c1 • T + c2 • φT
         ∧ (c1 : F) = 2 * dPoly ((g i).b2 + 2 * (g i).b1) + dPoly ((g i).b4 + 2 * (g i).b3)
-        ∧ (c2 : F) = 2 * cPoly ((g i).b2 + 2 * (g i).b1) + cPoly ((g i).b4 + 2 * (g i).b3) := by
+        ∧ (c2 : F) = 2 * cPoly ((g i).b2 + 2 * (g i).b1) + cPoly ((g i).b4 + 2 * (g i).b3)
+        ∧ |c1| ≤ 3 ∧ |c2| ≤ 3 := by
```
Comment (martyall) [inline formal/kimchi/Kimchi/Gate/Semantics/EndoMul.lean:1008]: Where does `3` come from here?

File: formal/kimchi/Kimchi/Gate/Semantics/EndoMul.lean [hunk 3]
```diff
@@ -1305,8 +1344,12 @@ theorem endoMul_off (W : WeierstrassCurve.Affine F)
     (hP0ns : W.Nonsingular (g 0).xP (g 0).yP)
     (hP0 : Point.some _ _ hP0ns = (2 : ℤ) • T + (2 : ℤ) • φT)
     (lam : ℤ) (heig : φT = lam • T) :
-    ∃ (hfin : W.Nonsingular (accX g m) (accY g m)) (s : ℤ),
+    ∃ (hfin : W.Nonsingular (accX g m) (accY g m)) (s A B : ℤ),
       Point.some _ _ hfin = s • T
+        ∧ s = B + A * lam
+        ∧ |A| ≤ 3 * 4 ^ m ∧ |B| ≤ 3 * 4 ^ m
```
Comment (martyall) [inline formal/kimchi/Kimchi/Gate/Semantics/EndoMul.lean:1350]: where does the 3 come from here ?

File: formal/kimchi/Kimchi/Gate/Semantics/VarBaseMul.lean [hunk 4]
```diff
@@ -1130,6 +1130,39 @@ lemma x_ne_xT_of_ne_base (c : WeierstrassCurve.Affine F)
     simp_all +decide [WeierstrassCurve.Affine.equation_iff]
   exact mul_left_cancel₀ (sub_ne_zero_of_ne hne) (by linear_combination h_eq)
 
+/-- **Prime-order inversion.** If `Q = [s]·P` with `s` a unit mod the (prime) order,
+    then `P = [s⁻¹]·Q` — the `recip` reading of a scalar multiple: `s⁻¹·s = 1 + m·order`
+    and the order kills every point. -/
+lemma eq_inv_smul_of_smul_eq (c : WeierstrassCurve.Affine F)
```
Comment (martyall) [inline formal/kimchi/Kimchi/Gate/Semantics/VarBaseMul.lean:1136]: why are we adding results to varbasemul ?

File: formal/snarky/Snarky/Kimchi/Circuit/EndoMul.lean [hunk 5]
```diff
@@ -1175,12 +1210,362 @@ theorem endoMul_complete_spec [Field F] [DecidableEq F] [ToNat F] (d : HasEndo F
...
+quantified: soundness never consults the witness. -/
+theorem endoInv_spec [Field F] [DecidableEq F] [ToNat F] (d : HasEndo F)
+    (q : ℕ) (hq : q.Prime) (lam' : ZMod q)
+    (t : AffinePoint (FVar F)) (scalar : SizedF 128 (FVar F))
+    (Q : PostCond (AffinePoint (FVar F)) (.arg (BuilderState F) .pure)) :
+    ⦃Sound (fun V (r : AffinePoint (FVar F)) =>
+        ∀ hg : d.W.Nonsingular (t.x.val V) (t.y.val V),
+          ∃ crumbs : List F,
+            (∀ x ∈ crumbs, x = 0 ∨ x = 1 ∨ x = 2 ∨ x = 3) ∧
+            crumbs.length = 64 ∧
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/EndoMul.lean:1238]: is 64 deducible from the SizedF 128 ?

File: formal/snarky/Snarky/Kimchi/Circuit/EndoMul.lean [hunk 6]
```diff
@@ -1175,12 +1210,362 @@ theorem endoMul_complete_spec [Field F] [DecidableEq F] [ToNat F] (d : HasEndo F
...
+on-curve point, the endo-decoded challenge is a unit mod the order (its ℤ-shadow is a
+positive bounded GLV combo, priced by `combo_ne_zero`), and any integer with the
+decomposition shape `endoMul` hands back is congruent to it (the char window
+`d.char_big` reads the bounded decomposition integers exactly). The digit-shadow
+recursion (`digitsOf`) stays inside this proof — the walk's context never carries it,
+which keeps the walk's elaboration off the 64-deep symbolic unfolding. -/
+private theorem endoInv_scalar_facts [Field F] [DecidableEq F] (d : HasEndo F)
+    [Fact (Nat.Prime d.W.order)] {xv yv : F} (hg : d.W.Nonsingular xv yv) (n : ℕ) :
+    Kimchi.Gate.EndoScalar.toField (crumbsOf 64 n) ((d.lam : ZMod d.W.order)) ≠ 0 ∧
+    ∀ s A B : ℤ, s = B + A * d.lam → |A| ≤ 3 * 4 ^ 32 → |B| ≤ 3 * 4 ^ 32 →
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/EndoMul.lean]: where does the 3 come from?

File: formal/snarky/Snarky/Kimchi/Circuit/EndoMul.lean [hunk 7]
```diff
@@ -1175,12 +1210,362 @@ theorem endoMul_complete_spec [Field F] [DecidableEq F] [ToNat F] (d : HasEndo F
...
+      (A : F) = Kimchi.Gate.EndoScalar.decomposeA (crumbsOf (2 * 32) n) →
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/EndoMul.lean]: why does 64 appear in some places and 2 * 32 in others? It makes no sense

File: formal/snarky/Snarky/Kimchi/Circuit/EndoMul.lean (hunk 6 above)
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/EndoMul.lean]: 4 * 32 = 2 * 64 = 128, why are there so many ways of writing this ?

File: formal/snarky/Snarky/Kimchi/Circuit/EndoMul.lean [hunk 8]
```diff
@@ -1175,12 +1210,362 @@ theorem endoMul_complete_spec [Field F] [DecidableEq F] [ToNat F] (d : HasEndo F
...
+          scalar.Fits env ∧
+          (∀ x y, t.x.eval env = .ok x → t.y.eval env = .ok y → d.W.Nonsingular x y))
+        (fun env r env' => ∀ v xv yv, scalar.val.eval env = .ok v →
+          t.x.eval env = .ok xv → t.y.eval env = .ok yv →
+          ∀ hg : d.W.Nonsingular xv yv,
+          ∃ xr yr, r.x.eval env' = .ok xr ∧ r.y.eval env' = .ok yr ∧
+            ∃ hres : d.W.Nonsingular xr yr,
+              Point.some _ _ hres
+                = ((Kimchi.Gate.EndoScalar.toField
+                    (Kimchi.Gate.EndoScalar.crumbsOf 64 (ToNat.toNat v))
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/EndoMul.lean:1413]: is 64 deducible from the Sized128
